* Created by KLayout
*** My special header ***

* cell opamp_r2r_ABAMP_TOSHIO_NAKAMURA
* pin AB_N
* pin AB_P
* pin CAP_N
* pin CAP_P
* pin OUT
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_ABAMP_TOSHIO_NAKAMURA AB_N AB_P CAP_N CAP_P OUT VDD VSS
* device instance $1 r180 *1 90.8,0.4 PMOS
XM$1 VDD AB_P OUT VDD PMOS L=5u W=720u AS=1119p AD=1119p PS=824.6u PD=824.6u
* device instance $25 r180 *1 91.1,-45.7 NMOS
XM$25 VSS AB_N OUT VSS NMOS L=5u W=360u AS=559.5p AD=559.5p PS=449.6u PD=449.6u
* device instance $49 r90 *1 -288.2,-71.4 F_CSIO
XC$49 CAP_N OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.6 Y=80.6 m=2
* device instance $51 r90 *1 -188.8,28 F_CSIO
XC$51 CAP_P OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.6 Y=80.6 m=2
.ENDS opamp_r2r_ABAMP_TOSHIO_NAKAMURA
